US07491723B2
1-[1-(3-chlorophenyl)-2-(4-pyrrolidin-1-ylpiperidin-1-yl)ethyl]cyclohexanol dihydrochloride
In an analogous manner to Example 1, step 21-[1-(3-chlorophenyl)-2-(4-pyrrolidin-1-ylpiperidin-1-yl)ethyl]cyclohexanoldihydrochloride was prepared from 1-[1-(3-chlorophenyl)-2-(4-pyrrolidin-1-ylpiperidin-1-yl)-2-oxoethyl]cyclohexanol. MS (ESI) m/z 391/393 ([M+H]+); HRMS: calcd for C23H35ClN2O.2.00 HCl, 462.1971; found (ESI), 391.2497.

reactant | 1-[1-(3-chlorophenyl)-2-(4-pyrrolidin-1-ylpiperidin-1-yl)-2-oxoethyl]cyclohexanol | ClC=1C=C(C=CC1)C(C(=O)N1CCC(CC1)N1CCCC1)C1(CCCCC1)O | C23H33ClN2O2
reactant | HCl | Cl | ClH
product | 1-[1-(3-chlorophenyl)-2-(4-pyrrolidin-1-ylpiperidin-1-yl)ethyl]cyclohexanol dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C(CN1CCC(CC1)N1CCCC1)C1(CCCCC1)O | InChI=1S/C23H35ClN2O.2ClH/c24-20-8-6-7-19(17-20)22(23(27)11-2-1-3-12-23)18-25-15-9-21(10-16-25)26-13-4-5-14-26;;/h6-8,17,21-22,27H,1-5,9-16,18H2;2*1H
